US07601716B2
1-(2,5-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (1.012 g) was reacted with 2,5-dichlorobenzyl bromide as in General Procedure 1 to give the title compound as a brown solid (69% yield). M.p.>200° C., LCMS: m/z=434.36 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 4.18 (2H, s), 5.07 (2H, s), 4.18 (2H, s), 7.14 (1H, d, J=1.8 Hz), 7.15 (1H, d, J=2.3 Hz), 7.40 (1H, dd, J=8.6, 2.5 Hz), 7.56 (1H, d, J=8.6 Hz), 7.85 (1H, d, J=1.8 Hz).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 1.012 g | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 2,5-dichlorobenzyl bromide | ClC1=C(CBr)C=C(C=C1)Cl | C7H5BrCl2
product | 1-(2,5-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 69% yield | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)I)C=C(C=C1)Cl | C14H10Cl2IN3O
